US07727713B2
Preparation of N-Acetyl-β-alanine (4a)
To a solution of β-alanine (2.25 g, 25 mmol) in aq. NaHCO3 (15 mL) was added acetonitrile (15 mL) and acetic anhydride (2.55 g, 25 mmol). The reaction mixture was stirred at room temperature for 3 h. Acetic anhydride (2.55 g, 25 mmol) was added and after 2 h and pH was adjusted to 4-5 by addition of NaH2PO4.

reactant | β-alanine | 25 mmol, 2.25 g | NCCC(=O)O | C3H7NO2
reactant | acetonitrile | 15 mL | C(C)#N | C2H3N
reactant | acetic anhydride | 25 mmol, 2.55 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | Acetic anhydride | 25 mmol, 2.55 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | NaHCO3 | 15 mL | C(=O)(O)[O-].[Na+]
product | N-Acetyl-β-alanine | C(C)(=O)NCCC(=O)O | C5H9NO3
